* Created by KLayout
*** My special header ***
* cell OSS_FRAME_GIO
* pin HIZ1
* pin HIZ10
* pin HIZ11
* pin HIZ12
* pin HIZ13
* pin HIZ14
* pin HIZ15
* pin HIZ2
* pin HIZ3
* pin HIZ4
* pin HIZ5
* pin HIZ6
* pin HIZ7
* pin HIZ9
* pin OUT1
* pin OUT10
* pin OUT11
* pin OUT12
* pin OUT13
* pin OUT14
* pin OUT15
* pin OUT2
* pin OUT3
* pin OUT4
* pin OUT5
* pin OUT6
* pin OUT7
* pin OUT9
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT OSS_FRAME_GIO HIZ1 HIZ10 HIZ11 HIZ12 HIZ13 HIZ14 HIZ15 HIZ2 HIZ3 HIZ4 HIZ5 HIZ6 HIZ7 HIZ9 OUT1 OUT10 OUT11 OUT12 OUT13 OUT14 OUT15 OUT2 OUT3 OUT4 OUT5 OUT6 OUT7 OUT9 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance 4 m45 *1 -1040,-600
X4 P6 VDD OUT6 HIZ6 VSS OSS_ESD_5V_DIO
* cell instance 5 m135 *1 1040,-200
X5 P12 VDD OUT12 HIZ12 VSS OSS_ESD_5V_DIO
* cell instance 6 m135 *1 1040,600
X6 P14 VDD OUT14 HIZ14 VSS OSS_ESD_5V_DIO
* cell instance 7 m90 *1 600,-1040
X7 P10 VDD OUT10 HIZ10 VSS OSS_ESD_5V_DIO
* cell instance 9 m45 *1 -1040,200
X9 P4 VDD OUT4 HIZ4 VSS OSS_ESD_5V_DIO
* cell instance 10 m0 *1 -600,1040
X10 P2 VDD OUT2 HIZ2 VSS OSS_ESD_5V_DIO
* cell instance 11 r270 *1 -1040,600
X11 P3 VDD OUT3 HIZ3 VSS OSS_ESD_5V_DIO
* cell instance 12 r270 *1 -1040,-200
X12 P5 VDD OUT5 HIZ5 VSS OSS_ESD_5V_DIO
* cell instance 13 r180 *1 600,1040
X13 P15 VDD OUT15 HIZ15 VSS OSS_ESD_5V_DIO
* cell instance 14 r180 *1 -200,1040
X14 P1 VDD OUT1 HIZ1 VSS OSS_ESD_5V_DIO
* cell instance 15 m0 *1 200,1040
X15 VDD VSS OSS_ESD_5V_VDD
* cell instance 16 r90 *1 1040,200
X16 P13 VDD OUT13 HIZ13 VSS OSS_ESD_5V_DIO
* cell instance 17 r90 *1 1040,-600
X17 P11 VDD OUT11 HIZ11 VSS OSS_ESD_5V_DIO
* cell instance 18 r0 *1 -600,-1040
X18 P7 VDD OUT7 HIZ7 VSS OSS_ESD_5V_DIO
* cell instance 19 r0 *1 200,-1040
X19 P9 VDD OUT9 HIZ9 VSS OSS_ESD_5V_DIO
* cell instance 20 m90 *1 -200,-1040
X20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME_GIO
* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD VDD VSS
* cell instance 1 r90 *1 130,0
X1 VDD VSS OSS_NCH_ESD
* cell instance 2 r270 *1 -130,0
X2 VSS VDD OSS_PCH_ESD
.ENDS OSS_ESD_5V_VDD
* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD VSS
* cell instance 1 r90 *1 -130,0
X1 VSS VDD OSS_PCH_ESD
* cell instance 2 r270 *1 130,0
X2 VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS
* cell OSS_ESD_5V_DIO
* pin PAD
* pin VDD
* pin OUT
* pin HIZ
* pin VSS
.SUBCKT OSS_ESD_5V_DIO PAD VDD OUT HIZ VSS
* cell instance 1 r90 *1 -130,0
X1 PAD VDD n8 OSS_PCH_DRV
* cell instance 2 r90 *1 130,0
X2 PAD n9 VSS OSS_NCH_DRV
* cell instance 5 m0 *1 0,107.8
X5 OUT HIZ VDD n8 n9 VSS OSS_DRV
.ENDS OSS_ESD_5V_DIO
* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance 1 r0 *1 -65.5,0 PMOS
XM1 PAD VDD VDD VDD MPE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u PD=689.36u
.ENDS OSS_PCH_ESD
* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance 1 r0 *1 -65.5,0 NMOSE
XM1 PAD VSS VSS VSS MNE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u PD=689.36u
.ENDS OSS_NCH_ESD
* cell OSS_DRV
* pin OUT
* pin HIZ
* pin vdd
* pin 
* pin 
* pin GND,gnd
.SUBCKT OSS_DRV OUT HIZ vdd n16 n17 gnd
* device instance 1 r0 *1 47.1,13.5 PMOS
XM1 vdd n13 n17 vdd PMOS L=1u W=19.4u AS=52.76p AD=54.32p PS=44.2u PD=50u
* device instance 2 r0 *1 -37.2,5.3 PMOS
XM2 n12 HIZ n14 vdd PMOS L=1u W=10.4u AS=29.12p AD=6.24p PS=26.4u PD=11.6u
* device instance 3 r0 *1 -37.2,7.5 PMOS
XM3 n14 n7 vdd vdd PMOS L=1u W=10.4u AS=6.24p AD=26p PS=11.6u PD=15.4u
* device instance 4 r0 *1 -37.2,13.5 PMOS
XM4 vdd n12 n16 vdd PMOS L=1u W=20.8u AS=55.12p AD=58.24p PS=41.8u PD=52.8u
* device instance 6 r0 *1 34.6,-0.5 PMOS
XM6 n6 HIZ vdd vdd PMOS L=1u W=5.2u AS=14.56p AD=7.8p PS=16u PD=8.2u
* device instance 7 r0 *1 34.6,3.5 PMOS
XM7 vdd n6 n13 vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance 8 r0 *1 34.6,7.5 PMOS
XM8 n13 n7 vdd vdd PMOS L=1u W=5.2u AS=7.8p AD=13p PS=8.2u PD=10.2u
* device instance 10 r0 *1 -46.4,-0.5 PMOS
XM10 n7 OUT vdd vdd PMOS L=1u W=5.2u AS=14.56p AD=22.36p PS=16u PD=19u
* device instance 11 r0 *1 -13.3,-0.5 NMOS
XM11 n7 OUT gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance 12 r0 *1 -13.3,3.5 NMOS
XM12 gnd HIZ n12 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance 13 r0 *1 -13.3,7.5 NMOS
XM13 n12 n7 gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=8.5p PS=6.4u PD=8.4u
* device instance 14 r0 *1 -13.3,13.5 NMOS
XM14 gnd n12 n16 gnd NMOS L=1u W=6.8u AS=18.02p AD=19.04p PS=20.8u PD=24.8u
* device instance 16 r0 *1 13.3,5.3 NMOS
XM16 n13 n6 n15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.04p PS=12.4u PD=4.6u
* device instance 17 r0 *1 13.3,7.5 NMOS
XM17 n15 n7 gnd gnd NMOS L=1u W=3.4u AS=2.04p AD=8.5p PS=4.6u PD=8.4u
* device instance 18 r0 *1 13.3,13.5 NMOS
XM18 gnd n13 n17 gnd NMOS L=1u W=6.8u AS=18.02p AD=19.04p PS=20.8u PD=24.8u
* device instance 20 r0 *1 8.5,-0.5 NMOS
XM20 n6 HIZ gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance 21 r0 *1 -13.2,-8.4 DN
D21 gnd OUT DN area=12.96p pj=14.4u
* device instance 22 r0 *1 8.6,-8.4 DN
D22 gnd HIZ DN area=12.96p pj=14.4u
.ENDS OSS_DRV
* cell OSS_PCH_DRV
* pin PAD
* pin VDD
* pin 
.SUBCKT OSS_PCH_DRV PAD VDD n3
* device instance 1 r0 *1 -65.5,0 PMOS
XM1 PAD VDD VDD VDD MPE L=2u W=200u AS=1573.04p AD=1300p PS=311.36u PD=252u
* device instance 5 r0 *1 -5.5,0 PMOS
XM5 PAD n3 VDD VDD MPE L=2u W=300u AS=1950p AD=2223.04p PS=378u PD=437.36u
.ENDS OSS_PCH_DRV
* cell OSS_NCH_DRV
* pin PAD
* pin 
* pin VSS
.SUBCKT OSS_NCH_DRV PAD n14 VSS
* device instance 1 r0 *1 -65.5,0 NMOSE
XM1 PAD VSS VSS VSS MNE L=2u W=350u AS=2648.04p AD=2175p PS=504.36u PD=437u
* device instance 8 r0 *1 35.5,0 NMOSE
XM8 VSS n14 PAD VSS MNE L=2u W=150u AS=875p AD=1348.04p PS=185u PD=252.36u
.ENDS OSS_NCH_DRV
